US06339090B1
(−)-4-(3,4-Difluorophenyl)-3,6-dimethyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid {3-[4-(2-cyano-4-fluorophenyl)-piperidin-1-yl]-propyl}-amide
2-[1-(3-Amino-propyl)-piperidin-4yl]-5-fluoro-benzonitrile dihydrochloride (85.0 mg, 0.254 mmol), triethylamine (108 μl, 0.774 mmol), (−)-4-(3,4-difluorophenyl)-3,6-dimethyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid (75.0 mg, 0.266 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide Hydrochloride (50.9 mg, 0.266 mmol), and 1-hydroxybenzotriazole hydrate (35.9 mg, 0.266 mmol) were combined in dimethylformamide (5 ml) and stirred 24 hr at room temperature After removal of the solvent in vacuo, the residue was treated with saturated sodium bicarbonate (aq.) and extracted with ethyl acetate (3X). The extracts were combined, washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo to give a crude oil (140 mg). Flash chromatography on silica gel (133/10/1 of methylene chloride/methanol/conc. ammonium hydroxide) gave the product as a white solid from ether ([αD]=−78.4°, c=0.125 MeOH).

reactant | 2-[1-(3-Amino-propyl)-piperidin-4yl]-5-fluoro-benzonitrile dihydrochloride | 0.254 mmol, 85.0 mg | Cl.Cl.NCCCN1CCC(CC1)C1=C(C#N)C=C(C=C1)F
reactant | triethylamine | 0.774 mmol, 108 μl | C(C)N(CC)CC | C6H15N
reactant | (−)-4-(3,4-difluorophenyl)-3,6-dimethyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid | 0.266 mmol, 75.0 mg | FC=1C=C(C=CC1F)C1N(C(NC(=C1C(=O)O)C)=O)C | C13H12F2N2O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide Hydrochloride | 0.266 mmol, 50.9 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.266 mmol, 35.9 mg | O.ON1N=NC2=C1C=CC=C2
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | (−)-4-(3,4-Difluorophenyl)-3,6-dimethyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid {3-[4-(2-cyano-4-fluorophenyl)-piperidin-1-yl]-propyl}-amide | C(#N)C1=C(C=CC(=C1)F)C1CCN(CC1)CCCNC(=O)C=1C(N(C(NC1C)=O)C)C1=CC(=C(C=C1)F)F | C28H30F3N5O2
